US07888364B2
Procedure F was performed using 55 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 99 mg of 1-acetylpiperazine in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield 6-(4-acetylpiperazin-1-yl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide. MS (Q1) 450.4 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 55 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | 1-acetylpiperazine | 99 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | 6-(4-acetylpiperazin-1-yl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | C(C)(=O)N1CCN(CC1)C1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C24H24ClN5O2
